US06916345B2
A) Synthesis of 2-(2,5-dimethylpyrrolidin-1-yl)-6-methoxy-3-nitropyridine:
4 g (0.0212 mol) of the product 2-chloro-3-nitro-6-methoxypyridine, 40 ml of ethanol and 4.2 g (0.042 mol) of 2,5-dimethylpyrrolidine were placed in a fully equipped round-bottomed flask.

reactant | 2-chloro-3-nitro-6-methoxypyridine | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | 2,5-dimethylpyrrolidine | 0.042 mol, 4.2 g | CC1NC(CC1)C | C6H13N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-(2,5-dimethylpyrrolidin-1-yl)-6-methoxy-3-nitropyridine | CC1N(C(CC1)C)C1=NC(=CC=C1[N+](=O)[O-])OC | C12H17N3O3
